US08183255B2
Intermediate B1 (i): Tert-butyl 3-amino-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-5(1H)-carboxylate
To a slurry of 5-tert-butyl 1-ethyl 3-amino-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-1,5-dicarboxylate (25.00 g, 77.1 mmol) in MeOH (50 mL) was added LiOH (1.92 g, 77.1 mmol). The reaction was stirred at room temperature for 2 h then concentrated. The crude reaction mixture was taken up in EtOAc (50 mL) then washed with NaHCO3 (20 mL) and water (20 mL). The organic layer was dried (MgSO4), filtered and concentrated to give an orange solid which was triturated with ACN then filtered and rinsed with ACN (50 mL) to give the title compound B1(i) as a white solid (14.8 g, 76%). 1H NMR (300 MHz, DMSO-d6) δ ppm 1.40-1.46 (m, 9H), 1.47-1.54 (m, 6H), 4.03-4.17 (m, 2H), 4.95 (br. s., 1H), 11.15 (s, 1H). Mass spectrum: Calcd for C12H21N4O2 (M+H): 253. Found 253.

reactant | 5-tert-butyl 1-ethyl 3-amino-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-1,5-dicarboxylate | 77.1 mmol, 25.00 g | NC=1C2=C(N(N1)C(=O)OCC)C(N(C2)C(=O)OC(C)(C)C)(C)C | C15H24N4O4
reactant | LiOH | 77.1 mmol, 1.92 g | [Li+].[OH-]
solvent | MeOH | 50 mL | CO | CH4O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | Tert-butyl 3-amino-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-5(1H)-carboxylate | NC=1C2=C(NN1)C(N(C2)C(=O)OC(C)(C)C)(C)C | C12H20N4O2
